US04230719
To a solution of 30 g of dimethyl sulfide in 30 ml of acetonitrile was added dropwise over a period of 30 minutes 30 g of dimethyl sulfate, while maintaining the temperature at 40° to 50° C., and the mixture was stirred for one hour at the same temperature. The reaction mixture was cooled to 25° C. and mixed with 30 g of 4-iodoacetophenone and 90 ml of acetonitrile. While stirring, 13.2 g of sodium methoxide was added to the mixture and stirring was continued for a further 30 minutes at room temperature to complete the reaction. Thereafter, the dimethyl sulfide and acetonitrile were removed by distillation, and to the residue were added 120 ml of cyclohexane and 120 ml of water, after which the mixture was thoroughly shaken. The organic layer was separated, dried over anhydrous magnesium sulfate, and freed from the solvent by distillation under reduced pressure to obtain 31.5 g (99% yield) of oily 2-(4-iodophenyl)-2-methyloxirane having a melting point of 44°-45° C.

reactant | dimethyl sulfide | 30 g | CSC | C2H6S
reactant | dimethyl sulfate | 30 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 4-iodoacetophenone | 30 g | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | sodium methoxide | 13.2 g | C[O-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 2-(4-iodophenyl)-2-methyloxirane | 31.5 g, 99% yield | IC1=CC=C(C=C1)C1(OC1)C | C9H9IO
